US06596719B1
According to a procedure described in Example 4b) 0.5 g 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-benzene sulfonamide was reacted with 2-aminoethanol to give 560 mg 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-benzene sulfonamide. LC-MS: tR=3.84 min, [M+1]+=487.51, [M−1]−=485.54.

reactant | 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-benzene sulfonamide | 0.5 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C22H24ClN3O4S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-benzene sulfonamide | 560 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C | C24H30N4O5S
